### PR TITLE
[Merged by Bors] - feat: add some lemmas about nthRootsFinset

### PR DESCRIPTION
**Pull request by Ruben-VandeVelde**
From flt-regular.
    
Co-authored-by: Andrew Yang <the.erd.one@gmail.com>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Polynomial/RingDivision.lean [hunk 1]
```diff
@@ -854,6 +854,29 @@ theorem mem_nthRootsFinset {n : ℕ} (h : 0 < n) {x : R} :
 theorem nthRootsFinset_zero : nthRootsFinset 0 R = ∅ := by classical simp [nthRootsFinset_def]
 #align polynomial.nth_roots_finset_zero Polynomial.nthRootsFinset_zero
 
+theorem mul_mem_nthRootsFinset
+    {η₁ : R} (hη₁ : η₁ ∈ nthRootsFinset n R) {η₂ : R} (hη₂ : η₂ ∈ nthRootsFinset n R) :
```
Comment (riccardobrasca) [inline Mathlib/Data/Polynomial/RingDivision.lean:858]:
```suggestion
    {η₁ η₂ : R} (hη₁ : η₁ ∈ nthRootsFinset n R) (hη₂ : η₂ ∈ nthRootsFinset n R) :
```
Looks nicer.

**Review by riccardobrasca — APPROVED** [review]
Would you mind to try to promote `nthRootsFinset` to a `Subsemigroup`? We surely need a `Fintype` instance, but then maybe the rest just works. (Unfortunately it is not a `Submonoid` in general, but it can maybe be done with `neZero n`).

File: Mathlib/Data/Polynomial/RingDivision.lean [hunk 2]
```diff
@@ -854,6 +854,37 @@ theorem mem_nthRootsFinset {n : ℕ} (h : 0 < n) {x : R} :
...
+  | zero =>
+    simp only [Nat.zero_eq, nthRootsFinset_zero, not_mem_empty] at hη
+  | succ n =>
+    rw [mem_nthRootsFinset n.succ_pos, zero_pow n.succ_pos] at hη
+    exact zero_ne_one hη
+
+theorem one_mem_nthRootsFinset (hn : 0 < n) : 1 ∈ nthRootsFinset n R := by
+  rw [mem_nthRootsFinset hn, one_pow]
+
+def nthRootsSubsemigroup (n : ℕ) (R : Type*) [CommRing R] [IsDomain R] : Subsemigroup R where
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Polynomial/RingDivision.lean:880]: @riccardobrasca was this the kind of thing you were thinking of?

Comment (riccardobrasca) [reply Mathlib/Data/Polynomial/RingDivision.lean:881]: I meant to change the definition of `nthRootsFinset` to make it a `Subsemigroup` instead of a `Finset`, so `mul_mem_nthRootsFinset` will be automatic. It's possible that this breaks a lot of things, in that case I don't think it is worth.

Comment (Ruben-VandeVelde) [reply Mathlib/Data/Polynomial/RingDivision.lean]: Pushed - not very excited so far. I'd like to see the impact on flt-regular before landing this.

Comment (riccardobrasca) [reply Mathlib/Data/Polynomial/RingDivision.lean]: Thanks. It should be possible to also add an instance of `Submonoid` provided we have `NeZero n`, adding an `example` that checks we are not creating a diamond.

Comment (Ruben-VandeVelde) [reply Mathlib/Data/Polynomial/RingDivision.lean]: wip at https://github.com/leanprover-community/flt-regular/compare/mathlib4...nthrootfinset?expand=1

**Comment by Ruben-VandeVelde** [comment]
> Would you mind to try to promote `nthRootsFinset` to a `Subsemigroup`? We surely need a `Fintype` instance, but then maybe the rest just works. (Unfortunately it is not a `Submonoid` in general, but it can maybe be done with `neZero n`).

I've reverted those changes because I'm not at all convinced they're making things better, especially when dealing with product over `nthRootsFinset`. If we want to do this, I think it should be separate from the addition of these small lemmas

**Comment by riccardobrasca** [comment]
OK, no problem!

bors d+
